* C:\Users\simon\OneDrive\Desktop\Uni\ENBEF\Git\ENBEF Abgaben\Uebung 02\Aufgabe2.2b.asc
R1 0 N001 2
L1 N001 line 1.73007m
C1 line 0 10µ
.tran 0 25ms 0 uic
.ic  V(line)=12
.backanno
.end
