* C:\Uni\3. Semester\ENBEF\Uebungen\ENBEF-Abgaben\Uebung03\data\Beispielschaltung2.asc
V1 N001 0 0 AC 1
R1 N002 0 100
L1 N002 N001 1m
* Ausgang
.ac oct 10 100 1Meg
.backanno
.end
