* C:\Daten\ENBEF\Abgaben\ENBEF-Abgaben\Uebung03\data\koaxialKabel2.asc
R11 phi1 phi2 1m
L1 phi2 phi3 250µ
R21 0 phi3 1500
Rf 0 phi5 1500
C1 phi3 0 0.1µ IC=0
V1 phi1 0 12
R12 phi3 phi4 1m
L2 phi4 phi5 250µ
R22 0 phi5 1500
C2 phi5 0 0.1µ IC=0
.tran 1m uic
.backanno
.end
